US06573274B1
To a solution of methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (300 mg) in dichloromethane (3.0 ml) was added pyridine (143 mg). To this suspension was added 1-butanesulfonyl chloride (156 mg) under ice-cooling and the mixture was stirred for 5 min and at room temperature for 7 hr. Water was added to the reaction mixture and extracted twice with chloroform. The combined organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate, filtrated, and concentrated under reduced pressure. Methanol was added to the residue. The mixture was crystallized, collected by filtration, and dried under reduced pressure to give methyl 3-(4-(N-(1-butanesulfonyl)amino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate as ochroid crystals (287 mg).

reactant | methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 300 mg | NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C16H15ClN4O2
reactant | pyridine | 143 mg | N1=CC=CC=C1 | C5H5N
reactant | 1-butanesulfonyl chloride | 156 mg | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 3.0 ml | ClCCl | CH2Cl2
product | methyl 3-(4-(N-(1-butanesulfonyl)amino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | C(CCC)S(=O)(=O)NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C20H23ClN4O4S
